US07550483B2
(2) Preparation of 1-(2-chloro-4-hydroxyphenyl)-3-cyclopropylurea
After dissolving phenyl N-(2-chloro-4-hydroxyphenyl)carbamate in N,N-dimethylformamide (100 mL), cyclopropylamine (22.7 mL) was added while cooling on ice, and the mixture was stirring at room temperature overnight. Water (400 mL), ethyl acetate (300 mL) and 6N-HCl (55 mL) were then added, the mixture was stirred, and the organic layer was separated. The organic layer was washed twice with a 10% aqueous solution of sodium chloride (200 mL), and dried over magnesium sulfate. Prism crystals obtained by concentrating the solvent were filtered and washed with heptane to give 22.8 g of the titled compound (77% yield from 4-amino-3-chlorophenol).

reactant | phenyl N-(2-chloro-4-hydroxyphenyl)carbamate | ClC1=C(C=CC(=C1)O)NC(OC1=CC=CC=C1)=O | C13H10ClNO3
reactant | Water | 400 mL | O | H2O
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 55 mL | Cl | ClH
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | cyclopropylamine | 22.7 mL | C1(CC1)N | C3H7N
product | 1-(2-chloro-4-hydroxyphenyl)-3-cyclopropylurea | 22.8 g, 77% yield | ClC1=C(C=CC(=C1)O)NC(=O)NC1CC1 | C10H11ClN2O2
